US05591862
According to the method described for Reference Example 35, (E)-3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2-propen-1-al was allowed to react with diethyl cyanomethylphosphonate to give (E,E)-5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2,4-pentadienenitrile. Recrystallization from ethyl acetate--ether gave colorless prisms, m.p.159°-160° C.

reactant | (E)-3-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2-propen-1-al | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)/C=C/C=O | C24H19NO3
reactant | diethyl cyanomethylphosphonate | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
product | (E,E)-5-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]phenyl]-2,4-pentadienenitrile | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(C=C1)/C=C/C=C/C#N | C26H20N2O2
